US07504410B2
17b) (αR)-α-Amino-N-[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-(hydroxymethyl)phenyl]benzenepropanamide
1,1-Dimethylethoxy[(1R)-2-[[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-(hydroxymethyl)phenyl]amino]-2-oxo-1-(phenylmethyl)ethyl]carbamate (22 mg) and sulfuric acid (0.3 ml; 2 n) were stirred in dioxane (3 ml) at 100° C. for 2.5 h. After cooling and dilution with water saturated NaHCO3-solution was added and the resulting preticipate collected by filtration yielding the title compound (10 mg).

reactant | 1,1-Dimethylethoxy[(1R)-2-[[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-(hydroxymethyl)phenyl]amino]-2-oxo-1-(phenylmethyl)ethyl]carbamate | 22 mg | CC(C)(ON(C([O-])=O)[C@@H](C(=O)NC1=CC(=CC(=C1)CO)NC1=NC=C(C(=N1)OCC#C)Br)CC1=CC=CC=C1)C
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | (αR)-α-Amino-N-[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-(hydroxymethyl)phenyl]benzenepropanamide | 10 mg | N[C@@H](C(=O)NC1=CC(=CC(=C1)CO)NC1=NC=C(C(=N1)OCC#C)Br)CC1=CC=CC=C1 | C23H22BrN5O3
